US04818272
To a dried methanol solution (100 ml) of 3-(2',4'-dichloro-5'-methoxycarbonyloxyphenyl)-5-isopropylidene-1,3-oxazolidine-2,4-dione (3.60 g, 10 mmol), which was synthesized from 2,4-dichloro-5-methoxycarbonyloxy nitrobenzene as a starting material in a method similar to that shown in Reference Example 6, 9, 10 and 4, was added potassium carbonate (0.69 g, 5 mmol) and the mixture was heated under reflux for 2 hours. 3-(2',4'-dichloro-5'-hydroxyphenyl)-5-isopropylidene-1,3-oxazolidine-2,4-dione (1.72 g) was obtained by a treatment similar to that in Reference Example 1.

reactant | 3-(2',4'-dichloro-5'-methoxycarbonyloxyphenyl)-5-isopropylidene-1,3-oxazolidine-2,4-dione | 10 mmol, 3.60 g | ClC1=C(C=C(C(=C1)Cl)OC(=O)OC)N1C(OC(C1=O)=C(C)C)=O | C14H11Cl2NO6
reactant | 2,4-dichloro-5-methoxycarbonyloxy nitrobenzene | ClC1=C(C=C(C(=C1)Cl)OC(=O)OC)[N+](=O)[O-] | C8H5Cl2NO5
reactant | potassium carbonate | 5 mmol, 0.69 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | 3-(2',4'-dichloro-5'-hydroxyphenyl)-5-isopropylidene-1,3-oxazolidine-2,4-dione | 1.72 g | ClC1=C(C=C(C(=C1)Cl)O)N1C(OC(C1=O)=C(C)C)=O | C12H9Cl2NO4
